data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6881,"C1=CC2CCC[C:1]23CCC[C:2]([Br:3])(C1)[CH:4]3[O-:5].[AlH3].[Li+]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7120,"CO[C:1](C)([NH+:2](C)C)[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2024,"CC[NH+](CC)CC.Cl[P:1](Cl)(Cl)=[O:2].O=[N+]([O-])C1=C([O-:3])N=C2C=CC=CC2=C1O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8825,"CC(C)(C)[Si](OCC1C2OC(=O)OC2C[CH:1]=[O+:2]1)(C1=CC=CC=C1)C1=CC=CC=C1.CCO[Si](C)(C)C.C[Si](C)(C)C[CH:3]=[CH2:4].O=S(=O)([O-])C(F)(F)F|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8847,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCOC1=CC=C(OCC[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7626,"CC(=O)[O:1][H:2].CC(CCC(=O)C1=CC=CC=C1)([NH2+]C1CCCCC1N)[O-:3].CO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9202,"C[CH2][Al-]([Cl])([Cl])[O:1]CC.C[Si](C)(C)CC1=CC(C2=CC=CC=C2)N(CC2=CC=CC=C2)[C:2]([O:3][CH2:4]C)=[O+:5]1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,297,"CC(C)=CCC1=C(O)C=C(O)C(C=O)=C1C(C1C(O)=C(Cl)C(C)=C(Cl)C1=[O+:1][H:2])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7620,"CC[CH:1](C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,2496,"C[S:1][S:2]C.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1337,"CCOCCC[CH2:1][Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9445,"CC(=O)[O:1][H:2].CCN(CC)CC.COC1=C([N+](=O)[O-])C=CC(N2CCC([NH+]3CCCC(O)C3)([O-:3])CC2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4542,"CC(C)O.CC(C)[O][Al-:1]([O]C(C)C)([O]C1C(=O)CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC12)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7016,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4OC2[C:1](=[OH+:2])[CH:3]([H:4])CC3C1C5.CCCCCC[N:5]1CCC23C4=C5C=CC(OC)=C4OC2C(=O)CCC3C1C5.CO.COC=[O+]C|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7467,"COC(=O)[CH:1]([H:2])[C:3](C)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,961,"CS[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6186,"CN1C(=O)C2=CC=CN2C=C1CCCN=C(C1=C(C(=O)NN)C=CC=C1)[O:1][H:2].N[NH2:3].O.[Cl-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5332,"CC(O)=[O:1].CC=C(C(C)=O)C(C)(C)[Si](C)(C)C.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,349,"FC(F)(F)C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,8149,"C1CC[NH2+]CC1.CN(C)C=O.CNC(=O)C(CC(C)C)NC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3015,"C1=CC=[N+:1]([H:2])C=C1.CCCCCC1=CC(=O)C(C(C=C(C)CCC=C(C)C)[O-:3])C(O)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9941,"FC(F)(F)C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,4294,"Br[B:1](Br)Br.CCN1CCC23C4=C5C=CC([O:2]C)=C4OC2C(=O)CCC3(O)C1C5|(2, 1)"
train,pmechdb_split_0,0,8089,"CC(=O)C(=C(C)[O-:1])C1OC(CO)C(O)C(O)C1O.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6482,"N#CC1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1017,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.COC12CCC3C(CC3(C)C)C(C)(CCC1[O:2][H:3])C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2274,"C1=CC(N2CCCC2)=CC=N1.C1CCC(N=[C:1]=[NH+:2]C2CCCCC2)CC1.CCOC(=O)CC=CCO.O=C(CC1=CC=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6252,"CCC[NH:1]CCC.[Cl][Ti-]([Cl])([Cl])([Cl])[O+:2]=[C:3]1CCCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8820,"C1=CC=[N+:1]([H:2])C=C1.CCC(=O)N[C:3](CC1CCCCC1)=[C:4](CC)[O-:5].CCC(=O)OC(=O)CC.O=C=O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2038,"C=CCN.C=CC[NH:1][CH:2](C(O)CCC1=CC=CC=C1)[OH2+:3].OB(O)C=CC1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10266,"CS[S+:1](C)[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9175,"CC[O:1][CH:2](C)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1570,"CC1CC(=NOC(C(F)(F)F)=[O:1])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6104,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C(CC(=O)C1=CC=CO1)=[N+:1](NC1=CC(C#N)=CC=C1)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3008,"CO[C:1](OCC[OH:2])=[NH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8645,"CC1OC2=C(C(O[Si](C(C)C)(C(C)C)C(C)C)=CC=C2Br)C1(C)[CH:1]=[O+:2][Ti-]([Cl])([Cl])([Cl])[Cl].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6686,"CO[P+](O)(OC)O[C:1](C)([N:2]=[N+]=[N-])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5865,"C[P+](C)(C)[CH:1]=[CH2:2].[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7306,"C1=CC=C(N2N=NN=C2[S-:1])C=C1.C=C1CC(C=C(C)Br)OC(C[CH2:2][O:3][P+:4](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1.CCOC(=O)NNC(=O)OCC|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,4468,"C[C:1]1=[CH:2]C(C2=CC=CC=C2)CC1C1=CC=CC=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7724,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC1C[O:1][C:2](C)(C)[OH+:3]1.O.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
